US07754737B2
To a solution of serine (105 g, 1 mol) in methanol (1200 mL) was added thionyl chloride (87.6 mL, 142.8 g, 1.2 mol) dropwise at 0° C. After addition, the reaction mixture was heated under reflux for 12 h. Volatiles were evaporated to give (R)-2-amino-3-hydroxy-propionic acid methyl ester hydrochloride (155 g, 100%) as a solid that was used without further purification. 1H NMR (CDCl3, 400 MHz) δ 3.71 (s, 3H), 3.79 (m, 2H), 4.08 (s, 1H), 8.51 (br s, 2H).

reactant | serine | 1 mol, 105 g | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | thionyl chloride | 1.2 mol, 87.6 mL, 142.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 1200 mL | CO | CH4O
product | (R)-2-amino-3-hydroxy-propionic acid methyl ester hydrochloride | 155 g, 100% | Cl.COC([C@@H](CO)N)=O | InChI=1S/C4H9NO3.ClH/c1-8-4(7)3(5)2-6;/h3,6H,2,5H2,1H3;1H/t3-;/m1./s1
